US05322907
Preparation and glycidylation of glycerol 1,3-diphthalate
The reaction is carried out substantially as described in Example 5, initially giving 1165 g (100% of theory) of the desired hemiester as a pale yellow solid with an acid value of 5.27 equivalents/kg from the reaction of 888.7 g (6 mol) of phthalic anhydride and 276.3 g (3 mol) of glycerol in 960 g of methyl isobutyl ketone. Then 450 g (2.37 equivalents) of this hemiester are reacted using 2193 g (23.7 mol) of epichlorohydrin, 208.6 g of a 50% aqueous solution of sodium hydroxide and two times 21 g of a 50% aqueous solution of tetramethylammonium chloride, to give 509.4 g (86% of theory) of the desired yellow viscous product having an epoxy value of 3.38 equivalents/kg (85% of theory) and a chlorine content of 1.4%.

reactant | phthalic anhydride | 6 mol, 888.7 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | glycerol | 3 mol, 276.3 g | OCC(O)CO | C3H8O3
reactant | epichlorohydrin | 23.7 mol, 2193 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | [OH-].[Na+]
reactant | chlorine | ClCl | Cl2
solvent | methyl isobutyl ketone | 960 g | C(C(C)C)C(=O)C | C6H12O
catalyst | tetramethylammonium chloride | [Cl-].C[N+](C)(C)C
product | glycerol 1,3-diphthalate | C(C=1C(C(=O)O)=CC=CC1)(=O)OCC(O)COC(C=1C(C(=O)O)=CC=CC1)=O | C19H16O9
